US06194437B1
To a solution of 2-hydroxy-methyl-5-methoxy-pyridine (0.68 g, 4.9 mmol) in dry DCM was added dropwise excess thionyl chloride (2.0 mL), and the mixture was refluxed for 2 hours. The solvent was removed in vacuo, and the residue was taken up in EtOAc and washed with NaHCO3 (aq), dried (MgSO4, and concentrated in vacuo. The extremely volatile 2-chloromethyl-5-methoxy-pyridine was obtained as a solution in ethyl acetate to give (984.0 mg, 83.5%) yield.

reactant | 2-hydroxy-methyl-5-methoxy-pyridine | 4.9 mmol, 0.68 g | OC1=NC=C(C=C1C)OC | C7H9NO2
reactant | thionyl chloride | 2.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DCM | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-5-methoxy-pyridine | ClCC1=NC=C(C=C1)OC | C7H8ClNO
